US07521457B2
c) [2-(3-methoxy-4-nitro-phenyl)-1H-imidazol-4-yl]-acetic acid
7 g (60% purity, 21.519 mmol) 3-methoxy-4-nitro-benzamidine are dissolved in methanol and combined with 11 ml (44 mmol) 4 N dioxanic hydrochloric acid, the solvents are eliminated in vacuo. The residue and 6.13 g (44.384 mmol) potassium carbonate are suspended in 350 ml acetonitrile and combined with 3.24 ml (22.764 mmol) ethyl 4-chloracetoacetate and 880 mg (5.301 mmol) potassium iodide. The reaction mixture is stirred for 16 h at 45° C. The reaction mixture is diluted with water and combined with 1 N sodium hydroxide solution, and extracted with ethyl acetate. The aqueous phase is adjusted to pH 1 with 1 N HCL and saturated with sodium chloride. The product is then suction filtered.

reactant | 3-methoxy-4-nitro-benzamidine | 21.519 mmol, 7 g | COC=1C=C(C(=N)N)C=CC1[N+](=O)[O-] | C8H9N3O3
reactant | hydrochloric acid | 44 mmol, 4 N, 11 ml | Cl | ClH
reactant | potassium carbonate | 44.384 mmol, 6.13 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 4-chloracetoacetate | 22.764 mmol, 3.24 ml | ClCC(CC(=O)OCC)=O | C6H9ClO3
reactant | potassium iodide | 5.301 mmol, 880 mg | [I-].[K+]
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | methanol | CO | CH4O
solvent | acetonitrile | 350 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | [2-(3-methoxy-4-nitro-phenyl)-1H-imidazol-4-yl]-acetic acid | COC=1C=C(C=CC1[N+](=O)[O-])C=1NC=C(N1)CC(=O)O | C12H11N3O5
